US07858646B2
Synthesis of 5-(3-((4-acetyl-3-hydroxy-2-methylphenoxy)methyl)phenylsulfinyl)nicotinic acid
Add a 0.5 M solution of potassium peroxymonosulfate (0.61 g, 1.00 mmol) in water (2.0 mL) to a solution of 5-(3-((4-acetyl-3-hydroxy-2-methylphenoxy)methyl)phenylthio)nicotinic acid (205 mg, 0.50 mmol) in methanol (7.5 mL) at 0° C. Allow the solution to warm to room temperature and stir for 1.5 d. Add water and 2.2 mL of 2.0 M HCl to the mixture. Extract the mixture with EtOAc. Dry, filter and concentrate. Recrystallize the residue from a mixture of CH2Cl2 and hexanes to give a light yellow solid. Purify the yellow solid by flash chromatograhpy on silica gel eluting with a mixture of acetone, hexanes, and acetic acid (50:50:1 to 90:10) to afford the title compound (31 mg, 15%): 1H NMR (d6-DMSO) δ 2.01 (s, 3H), 2.58 (s, 3H), 5.33 (s, 2H), 6.67 (d, J=9.0 Hz, 1H), 7.61-7.63 (m, 2H), 7.77 (d, J=9.0 Hz, 1H), 7.81-7.83 (m, 1H), 7.88 (s, 1H), 8.49 (t, J=2.0 Hz, 1H), 9.08 (d, J=2.0 Hz, 1H), 9.12 (d, J=2.0 Hz, 1H), 12.84 (s, 1H); MS (APCI-neg mode) m/z (rel intensity): 424 (M−H, 100%).

reactant | potassium peroxymonosulfate | 1.00 mmol, 0.61 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 5-(3-((4-acetyl-3-hydroxy-2-methylphenoxy)methyl)phenylthio)nicotinic acid | 0.50 mmol, 205 mg | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=NC=C(C(=O)O)C2)C=C1)C)O | C22H19NO5S
reactant | HCl | 2.0 M, 2.2 mL | Cl | ClH
solvent | water | 2.0 mL | O | H2O
solvent | methanol | 7.5 mL | CO | CH4O
product | 5-(3-((4-acetyl-3-hydroxy-2-methylphenoxy)methyl)phenylsulfinyl)nicotinic acid | 31 mg, 15% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)S(=O)C=2C=NC=C(C(=O)O)C2)C=C1)C)O | C22H19NO6S
